US05583222
639.7 mg of tert-butyl (3R,4R)-4-[4-(2-fluoro-3-methoxy-6-methoxymethoxy-benzoyl)-benzoyloxy]-3-(4-methoxymethoxy-benzoylamino)-azepane-1-carboxylate were dissolved in 9 ml of dimethoxyethane and 9 ml of isopropanol and, after cooling to 0° C., saturated slowly with HCl gas and stored in a refrigerator for 24 hours. The solvent was removed completely under reduced pressure and the product was triturated with diethyl ether. The suspension obtained was stirred for several hours; the solvent was decanted off and, after the addition of a further amount of fresh solvent, the stirring was continued overnight. The product was filtered off, washed several times with diethyl ether and dried at 0.1 mbar and 50° C. There were obtained 479 mg of 4-(2-fluoro-6-hydroxy-3-methoxy-benzoyl)-benzoic acid (3R,4R)-3-(4-hydroxy-benzoylamino)-azepan-4-yl ester hydrochloride (1:1) as a yellow powder.

reactant | tert-butyl (3R,4R)-4-[4-(2-fluoro-3-methoxy-6-methoxymethoxy-benzoyl)-benzoyloxy]-3-(4-methoxymethoxy-benzoylamino)-azepane-1-carboxylate | 639.7 mg | FC1=C(C(=O)C2=CC=C(C(=O)O[C@H]3[C@@H](CN(CCC3)C(=O)OC(C)(C)C)NC(C3=CC=C(C=C3)OCOC)=O)C=C2)C(=CC=C1OC)OCOC | C37H43FN2O11
reactant | isopropanol | 9 ml | C(C)(C)O | C3H8O
reactant | HCl | Cl | ClH
solvent | dimethoxyethane | 9 ml | C(OC)COC | C4H10O2
product | 4-(2-fluoro-6-hydroxy-3-methoxy-benzoyl)-benzoic acid (3R,4R)-3-(4-hydroxy-benzoylamino)-azepan-4-yl ester hydrochloride | 479 mg | Cl.OC1=CC=C(C(=O)N[C@@H]2CNCCC[C@H]2OC(C2=CC=C(C=C2)C(C2=C(C(=CC=C2O)OC)F)=O)=O)C=C1 | InChI=1S/C28H27FN2O7.ClH/c1-37-23-13-12-21(33)24(25(23)29)26(34)16-4-6-18(7-5-16)28(36)38-22-3-2-14-30-15-20(22)31-27(35)17-8-10-19(32)11-9-17;/h4-13,20,22,30,32-33H,2-3,14-15H2,1H3,(H,31,35);1H/t20-,22-;/m1./s1
